US08754114B2
Step 3: methyl 3-{6-[(diphenylmethylene)amino]pyridazin-4-yl}benzoate
A mixture of methyl 3-(6-chloropyridazin-4-yl)benzoate (0.21 g, 0.84 mmol), benzophenone imine (260 μL, 1.5 mmol), (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (26 mg, 0.042 mmol), cesium carbonate (0.55 g, 1.7 mmol) and palladium acetate (9.5 mg, 0.042 mmol) in 1,4-dioxane (3 mL) was vacuum and refilled with nitrogen for 3 times. The reaction was stirred at 110° C. overnight. After cooling it was diluted with ethyl acetate. The organic solution was washed with water and brine, dried over Na2SO4. After filtration the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in methylene chloride (0-20%) to afford the desired product (0.23 g). LCMS (M+H)+: m/z=394.2

reactant | methyl 3-(6-chloropyridazin-4-yl)benzoate | 0.84 mmol, 0.21 g | ClC1=CC(=CN=N1)C=1C=C(C(=O)OC)C=CC1 | C12H9ClN2O2
reactant | benzophenone imine | 1.5 mmol, 260 μL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | cesium carbonate | 1.7 mmol, 0.55 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.042 mmol, 9.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.042 mmol, 26 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
product | methyl 3-{6-[(diphenylmethylene)amino]pyridazin-4-yl}benzoate | 0.23 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=CC(=CN=N1)C=1C=C(C(=O)OC)C=CC1 | C25H19N3O2
